US08535642B2
At 2° C. a mantled reactor with mechanical stirrer, dropping funnel and inner thermometer was charged with DMA (640 ml), triethylamine (224 ml, 161.3 g, 1.59 mol) and 5-Amino-2,4,6-triiodo-isophthalic acid dichloride (320 g, 537 mmol). The mixture was stirred and cooled to −24° C. A solution of 1-amino-2,3-dihydroxypropane (49.92 g, 548 mmol) in DMA (160 ml) was added slowly to keep the inner temperature below −19° C. The mixture was stirred at a temperature gradient from −24° C. to 0° C. in 24 h. A solution of serinol (60 g, 658 mmol) in DMA (160 ml) was added slowly and the mixture was stirred at a temperature gradient from 0° C. to 40° C. in 20 h. The mixture was stirred at 22° C. for 1 day and precipitated triethylamine hydrochloride was filtered off. Evaporation at 60° C./25 mbar left a viscous liquid residue (586 g) which was diluted with water (350 ml). Salts and excess amines were removed by treatment with ion exchangers Amberlite200C (143 ml), IRA67 (148 ml) and IRA900 (56 ml) followed by filtration. The ion exchangers were washed with water (2×400 ml). Some seeding crystals were added to the combined aqueous phase and the solution was stirred slowly at 22° C. for 9 days. The precipitate was isolated by filtration. The filter cake was re-suspended in water (240 ml) and stirred for 1 day. The suspension was filtered and the filter cake was dried in air (216 g, 57% yield, 88.6% HPLC purity). The crude product was purified by preparative HPLC (column: selfpacked Luna C18, 10 μm 250×100 mm, solvents: A=water and B=acetonitrile; gradient 5-10% B over 10 min, hold 10 min; flow 350 ml/min, UV detection at 244 nm and 254 nm). Relevant fractions were combined and freeze dried to yield 5-amino-N1-(1,3-dihydroxypropan-2-yl)-N3-(2,3-dihydroxypropyl)-2,4,6-triiodoisophthalamide.

reactant | triethylamine | 1.59 mol, 224 ml, 161.3 g | C(C)N(CC)CC | C6H15N
reactant | 5-Amino-2,4,6-triiodo-isophthalic acid dichloride | 537 mmol, 320 g | NC=1C(=C(C(=C(C(=O)Cl)C1I)I)C(=O)Cl)I | C8H2Cl2I3NO2
reactant | 1-amino-2,3-dihydroxypropane | 548 mmol, 49.92 g | NCC(CO)O | C3H9NO2
reactant | serinol | 658 mmol, 60 g | NC(CO)CO | C3H9NO2
solvent | DMA | 160 ml | CC(=O)N(C)C | C4H9NO
solvent | DMA | 160 ml | CC(=O)N(C)C | C4H9NO
solvent | water | 240 ml | O | H2O
solvent | DMA | 640 ml | CC(=O)N(C)C | C4H9NO
product | 5-amino-N1-(1,3-dihydroxypropan-2-yl)-N3-(2,3-dihydroxypropyl)-2,4,6-triiodoisophthalamide | 57% yield | NC=1C(=C(C(=C(C(=O)NC(CO)CO)C1I)I)C(=O)NCC(CO)O)I | C14H18I3N3O6
